US09102671B2
A flask was charged with TfOH (136.4 g, 909 mmol) and DCM (505 mL) and cooled to −20° C. Anisole (45 g, 416 mmol) was added followed by a solution of 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide (I-53) (101 g, 166 mmol) in DCM (303 mL). The mixture was warmed to 20° C., and maintained for 15 hours. HPLC showed consumption of (I-53). The reaction was cooled to <0° C. and DCM (1 L) and an aqueous saturated K2CO3 (1 L) was added (aqueous layer pH=9-10). The aqueous layer was separated and extracted with DCM (500 mL). The rag layer was filtered through Celite and the two layers were separated. The organic layers were combined and concentrated to dryness. The resulting solid was triturated with TBME (250 mL) at 20° C. to yield 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide (X-10). Melting point: 140° C. (dec.). 1H NMR (400 MHz, CD3OD) δ 8.28 (d, J=8.0 Hz, 1 H), 8.23 (s, 1 H), 7.61-7.58 (m, 1 H), 7.48-7.42 (m, 1 H), 7.03 (d, J=2.4 Hz, 1 H), 6.52 (dd, J=2.8, 7.6 Hz, 1 H), 5.42 (d, J=52.4 1 H), 5.14 (dd, J=7.2, 9.6 Hz, 1 H), 4.21 (ddd, J=3.2, 12.0, 36.8 Hz, 1 H), 3.94 (ddd, J=2.0, 12.3, 23.8 Hz, 1 H), 2.98-2.85 (m, 1 H), 2.16 (dddd, J=3.6, 9.6, 14.0, 40.4 Hz, 1 H).

reactant | TfOH | 909 mmol, 136.4 g | S(=O)(=O)(C(F)(F)F)O | CHF3O3S
reactant | Anisole | 416 mmol, 45 g | C1(=CC=CC=C1)OC | C7H8O
reactant | 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)-N,N-bis(4-methoxybenzyl)pyrazolo[1,5-a]pyridine-3-carboxamide | 166 mmol, 101 g | C(#N)C=1C=C(C=C(C1)F)[C@@H]1N(C[C@H](C1)F)C1=CC=2N(C=C1)N=CC2C(=O)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC | C35H31F2N5O3
solvent | DCM | 303 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 505 mL | C(Cl)Cl | CH2Cl2
product | 5-((2R,4S)-2-(3-cyano-5-fluorophenyl)-4-fluoropyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | C(#N)C=1C=C(C=C(C1)F)[C@@H]1N(C[C@H](C1)F)C1=CC=2N(C=C1)N=CC2C(=O)N | C19H15F2N5O
